datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cn1c(-c2ccccn2)[n+:21]([H:20])c2ccccc21.[NH3+]Cc1nnn[n-:10]1>>Cn1c(-c2ccccn2)[n:21]c2ccccc21.[NH3+]Cc1nnn[n:10]1[H:20] 10=20;20,21=21",
"NC(=O)C(CC(=O)[O:21][H:20])c1ccccc1.OCCn1c[n:10]c2ccccc21>>NC(=O)C(CC(=O)[O-:21])c1ccccc1.OCCn1c[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.c1ccc(Oc2cccc[n+:21]2[H:20])cc1>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.c1ccc(Oc2cccc[n:21]2)cc1 10=20;20,21=21",
"C[NH+](C)Cc1cc(Cl)ccc1[O-:10].[S-]c1nc2nccnc2c[n+:21]1[H:20]>>C[NH+](C)Cc1cc(Cl)ccc1[O:10][H:20].[S-]c1nc2nccnc2c[n:21]1 10=20;20,21=21",
"CCC[NH+:21](CC(=O)[O-])[H:20].NCC[NH:10]CCCO>>CCC[NH:21]CC(=O)[O-].NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"CCOC(=S)[N:21](C(=O)c1ccccc1)[H:20].Cc1ccc(S(=O)(=O)[N-:10]C(CCC(N)=O)C(=O)[O-])cc1>>CCOC(=S)[N-:21]C(=O)c1ccccc1.Cc1ccc(S(=O)(=O)[N:10](C(CCC(N)=O)C(=O)[O-])[H:20])cc1 10=20;20,21=21",
"Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n+:21]2[H:20].O=C(CSc1ccc(S)cc1)[O-:10]>>Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n:21]2.O=C(CSc1ccc(S)cc1)[O:10][H:20] 10=20;20,21=21",
"C[n+]1ccc2ccc([O:21][H:20])cc2c1.Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O-:10]>>C[n+]1ccc2ccc([O-:21])cc2c1.Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)c1ccc([NH2:10])cc1.S=C1Oc2ccccc2[N:21]1[H:20]>>CCOC(=O)c1ccc([NH2+:10][H:20])cc1.S=C1Oc2ccccc2[N-:21]1 10=20;20,21=21",
"CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n:10]cn1C.O=C(c1cc([N+](=O)[O-])ccc1O)[O:21][H:20]>>CC[C@@H]1C(=O)OC[C@@H]1Cc1c[n+:10]([H:20])cn1C.O=C(c1cc([N+](=O)[O-])ccc1O)[O-:21] 10=20;20,21=21",
"CCCCCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].CCCC[NH:10]CC(=O)[O-]>>CCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:21].CCCC[NH+:10](CC(=O)[O-])[H:20] 10=20;20,21=21",
"CN1C(=O)[N-:10]C(=O)c2[nH]cnc21.Fc1cccc([NH2+:21][H:20])c1>>CN1C(=O)[N:10]([H:20])C(=O)c2[nH]cnc21.Fc1cccc([NH2:21])c1 10=20;20,21=21",
"CC(=S)[N-:10]c1ccc(Cl)cc1.Cc1coc(C)c1C(=O)[O:21][H:20]>>CC(=S)[N:10](c1ccc(Cl)cc1)[H:20].Cc1coc(C)c1C(=O)[O-:21] 10=20;20,21=21",
"O=[N+]([O-])/C=C/c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])/C=C/c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CNC(=O)c1cccc[n+:21]1[H:20].c1cc(-c2cc[n:10]cc2)cc[nH+]1>>CNC(=O)c1cccc[n:21]1.c1cc(-c2cc[n+:10]([H:20])cc2)cc[nH+]1 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c(N(C)C)s1.N#CC[N:10]1CCOCC1>>Cc1c[n:21]c(N(C)C)s1.N#CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CN1C(=O)NCc2c1nc[n-:10]2.CN1CCCC2CC[N+:21]([H:20])=C21>>CN1C(=O)NCc2c1nc[n:10]2[H:20].CN1CCCC2CC[N:21]=C21 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)[N:21](c2nccc(C)n2)[H:20])cc1.CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O-:10]>>CC(=O)Nc1ccc(S(=O)(=O)[N-:21]c2nccc(C)n2)cc1.CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O:10][H:20] 10=20;20,21=21",
"Cc1ccc2[nH]c[n:10]c2c1.NC(=O)CCCCc1ccc[n+:21]([H:20])c1>>Cc1ccc2[nH]c[n+:10]([H:20])c2c1.NC(=O)CCCCc1ccc[n:21]c1 10=20;20,21=21",
"CNc1ccc[n+:21]([H:20])c1.c1c[nH+]cc(-c2ccc[n:10]c2)c1>>CNc1ccc[n:21]c1.c1c[nH+]cc(-c2ccc[n+:10]([H:20])c2)c1 10=20;20,21=21",
"CC(Nc1ccccc1)=[N+:21](c1ccccc1)[H:20].CCNc1cc[nH+]c([O-])[n:10]1>>CC(Nc1ccccc1)=[N:21]c1ccccc1.CCNc1cc[nH+]c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)C[NH:10]C(C)C.COc1ccccc1/C=N/[O:21][H:20]>>CC(C)C[NH+:10](C(C)C)[H:20].COc1ccccc1/C=N/[O-:21] 10=20;20,21=21",
"O=S(=O)([O-])c1ccc([O-:10])c2[nH]ncc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1ccc([O:10][H:20])c2[nH]ncc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1cc[n+:21]([H:20])cc1.O=C(CCCl)[O-:10]>>CCc1cc[n:21]cc1.O=C(CCCl)[O:10][H:20] 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O-:10].[O-]c1ccc(F)cc1C[N+:21]1([H:20])CCCCC1>>CCCCCCCCCCc1c(-c2ccccc2)n[nH]c1[O:10][H:20].[O-]c1ccc(F)cc1C[N:21]1CCCCC1 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:10].O=C(/C=C/c1ccc(O)cc1)[O:21][H:20]>>CC(=O)[C@@H]1C[C@@H]1C(=O)[O:10][H:20].O=C(/C=C/c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20].[S-]CC[NH:10]CCc1ccccc1>>O=[N+]([O-])[CH-:21]SC1=CC=CC=C1.[S-]CC[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CCC(=O)O[O:21][H:20].COc1ccc(CC(C)[NH2:10])cc1OC>>CCC(=O)O[O-:21].COc1ccc(CC(C)[NH2+:10][H:20])cc1OC 10=20;20,21=21",
"CC(CN)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(CN)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCc1nnn[n:21]1[H:20].OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n:10]c32)[C@@H](O)[C@H]1O>>CCCc1nnn[n-:21]1.OC[C@@H]1O[C@H](n2cnc3c2ncn2cc[n+:10]([H:20])c32)[C@@H](O)[C@H]1O 10=20;20,21=21",
"C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N:21]([H:20])C1=O.C[S+](C)c1ccc([O-:10])cc1>>C=CCC1(C2C=CCCC2)C(=O)[N-]C(=S)[N-:21]C1=O.C[S+](C)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"O=C([O-])[C@@H]1O[C@@H]1C(=O)[O:21][H:20].O=[N+]([O-])c1ccccc1[NH-:10]>>O=C([O-])[C@@H]1O[C@@H]1C(=O)[O-:21].O=[N+]([O-])c1ccccc1[NH:10][H:20] 10=20;20,21=21",
"O/N=C/c1ccc([O:21][H:20])cc1O.[NH3+]C/C=C\C(=O)[O-:10]>>O/N=C/c1ccc([O-:21])cc1O.[NH3+]C/C=C\C(=O)[O:10][H:20] 10=20;20,21=21",
"c1ccc([NH:10]C2CCCCC2)cc1.c1ncc2cn[n:21]([H:20])c2n1>>c1ccc([NH+:10](C2CCCCC2)[H:20])cc1.c1ncc2cn[n-:21]c2n1 10=20;20,21=21",
